US08039460B2
Step F: Benzyl 3-methyl-2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate
Lithium hexamethyldisilylazide (1.0 M in THF; 0.135 mL, 0.135 mmol) was added to solution of benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate (50.0 mg, 0.104 mmol) in tetrahydrofuran (1 mL) at −78° C. After 40 min, iodomethane (8.0 μL, 0.135 mmol) was added and the reaction mixture was slowly warmed to ambient temperature. After 1 h, the mixture was quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate (3×). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated to give the title compound. MS 494.3 (M+1).

reactant | benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | 0.104 mmol, 50.0 mg | O=C1N(C2=NC=CC=C2C2(CCN(C=C2)C(=O)OCC2=CC=CC=C2)C1)COCC[Si](C)(C)C | C26H33N3O4Si
reactant | iodomethane | 0.135 mmol, 8.0 μL | IC | CH3I
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Benzyl 3-methyl-2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | CC1C(N(C2=NC=CC=C2C12CCN(C=C2)C(=O)OCC2=CC=CC=C2)COCC[Si](C)(C)C)=O | C27H35N3O4Si
